US08017630B2
2-[4-Dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)ethyl]acetamide hydrochloride (Example 44)
The more polar diastereoisomer of 2-[4-dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)ethyl]acetamide (224 mg, 0.74 mmol) was dissolved in a mixture of ethyl methyl ketone (15 ml) and ethanol (15 ml), 5 M isopropanolic hydrochloric acid (0.16 ml, 0.795 mmol) was added and the mixture was stirred at RT for 2.5 h. The product was filtered off with suction and obtained in a yield of 75% (181 mg) with an m.p. of 252-255° C.

reactant | 2-[4-dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)ethyl]acetamide | 0.74 mmol, 224 mg | CN(C1(CCC(CC1)CC(=O)NCCC1=CNC2=CC=CC=C12)C1=CC=C(C=C1)F)C | C26H32FN3O
reactant | hydrochloric acid | 0.795 mmol, 5 M, 0.16 ml | Cl | ClH
solvent | ethyl methyl ketone | 15 ml | CC(=O)CC | C4H8O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[4-Dimethylamino-4-(4-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)ethyl]acetamide hydrochloride | yield of 75% | Cl.CN(C1(CCC(CC1)CC(=O)NCCC1=CNC2=CC=CC=C12)C1=CC=C(C=C1)F)C | InChI=1S/C26H32FN3O.ClH/c1-30(2)26(21-7-9-22(27)10-8-21)14-11-19(12-15-26)17-25(31)28-16-13-20-18-29-24-6-4-3-5-23(20)24;/h3-10,18-19,29H,11-17H2,1-2H3,(H,28,31);1H
